US04282372
15.6 Grams of 3-butyl-4,5-epoxy-pentan-2-one was added to chloroform (300 ml), and then conc. hydrochloric acid (3 ml) was added thereto, followed by refluxing for 10 hours. The chloroform layer was washed with water and then with an aqueous sodium hydrogen carbonate solution, followed by concentrating. The residue was column chromatographed on silica gel to obtain 4.8 g of 2-methyl-3-butylfuran.

reactant | 3-butyl-4,5-epoxy-pentan-2-one | C(CCC)C(C(C)=O)C1CO1 | C9H16O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methyl-3-butylfuran | 4.8 g, Yield: 35% | CC=1OC=CC1CCCC | C9H14O
